### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Path): add `IsPath.getVert_injOn`

### PR DESCRIPTION
**Pull request by pimotte**
Add lemma on injectivity of getVert for the indices that are in range.
In preparation for Tutte's theorem. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip thread on Tutte's](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tutte's.20theorem)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 1]
```diff
@@ -265,6 +265,26 @@ theorem IsPath.length_lt [Fintype V] {u v : V} {p : G.Walk u v} (hp : p.IsPath)
...
+    by_cases hn0 : n = 0 <;> by_cases hm0 : m = 0
+    · aesop
+    · simp [hn0, Walk.getVert_cons p h hm0] at hnm
+      have hvp : v ∉ p.support := by aesop
+      exact (hvp (Walk.mem_support_iff_exists_getVert.mpr ⟨(m - 1), ⟨hnm.symm, by omega⟩⟩)).elim
+    · simp [hm0, Walk.getVert_cons p h hn0] at hnm
+      have hvp : v ∉ p.support := by aesop
+      exact (hvp (Walk.mem_support_iff_exists_getVert.mpr ⟨(n - 1), ⟨hnm, by omega⟩⟩)).elim
+    · simp [Walk.getVert_cons _ _ hn0, Walk.getVert_cons _ _ hm0] at hnm
+      have := ihp (Walk.IsPath.of_cons hp) (by omega : (n - 1) ≤ p.length)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:284]:
```suggestion
      have := ihp hp.of_cons (by omega : (n - 1) ≤ p.length)
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 2]
```diff
@@ -265,6 +265,26 @@ theorem IsPath.length_lt [Fintype V] {u v : V} {p : G.Walk u v} (hp : p.IsPath)
...
+  induction p generalizing n m with
+  | nil => aesop
+  | @cons v w u h p ihp =>
+    simp only [length_cons, Set.mem_setOf_eq] at hn hm hnm
+    by_cases hn0 : n = 0 <;> by_cases hm0 : m = 0
+    · aesop
+    · simp [hn0, Walk.getVert_cons p h hm0] at hnm
+      have hvp : v ∉ p.support := by aesop
+      exact (hvp (Walk.mem_support_iff_exists_getVert.mpr ⟨(m - 1), ⟨hnm.symm, by omega⟩⟩)).elim
+    · simp [hm0, Walk.getVert_cons p h hn0] at hnm
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:280]: Please squeeze non-terminal simps.

File: Mathlib/Combinatorics/SimpleGraph/Path.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Combinatorics/SimpleGraph/Path.lean:284]: This still needs doing.

File: Mathlib/Combinatorics/SimpleGraph/Path.lean (hunk 2 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Path.lean]: Fixed:)

File: Mathlib/Combinatorics/SimpleGraph/Path.lean (hunk 1 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Path.lean]: Fixed:)

**Comment by kim-em** [comment]
bors merge
